US07425568B2
5-Methoxy-2-[2-(3-fluorophenyl)indan-5-yloxy]phenylamine was prepared as described for 5-methoxy-2-(2-phenylchroman-6-yloxy)phenylamine in Example 3(a-b) using 500 mg of 2-(3-fluorophenyl)indan-5-ol. 1H-NMR (400 MHz, CDCl3): 7.26-7.21 (m, 1H), 7.16 (d, 1H, J 2.9 Hz), 7.09 (d, 1H, J 8.2 Hz), 7.02 (d, 1H, J 7.7 Hz), 6.96-6.88 (m, 4H), 6.83 (d, 1H, J 9.1 Hz), 6.72 (dd, 1H, J 2.9, 9.1 Hz), 3.69 (s, 3H), 3.65 (k, 1H, J 8.8 Hz), 3.26-3.19 (m, 2H), 2.94 (dd, 2H, J 8.8, 15.1 Hz).

reactant | 5-methoxy-2-(2-phenylchroman-6-yloxy)phenylamine | COC=1C=CC(=C(C1)N)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H21NO3
reactant | 2-(3-fluorophenyl)indan-5-ol | 500 mg | FC=1C=C(C=CC1)C1CC2=CC=C(C=C2C1)O | C15H13FO
product | 5-Methoxy-2-[2-(3-fluorophenyl)indan-5-yloxy]phenylamine | COC=1C=CC(=C(C1)N)OC=1C=C2CC(CC2=CC1)C1=CC(=CC=C1)F | C22H20FNO2
